US08309734B2
Step 1: (2-Chloro-5-fluoro-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone
To a solution of 2-chloro-5-fluoro-nicotinic acid (0.60 g, 3.42 mmol, 1.0 equiv; [CAS RN 38186-88-8]) in anhydrous DMF (5 mL) was added 1,2,3,4-tetrahydro-quinoline (0.55 g, 0.52 mL, 4.10 mmol, 1.2 equiv; [CAS RN 635-46-1]), N-ethyldiisopropylamine (2.21 g, 2.91 mL, 17.09 mmol, 5.0 equiv; [CAS RN 7087-68-5]) and HATU (1.56 g, 4.10 mmol, 1.2 equiv; [CAS RN 148893-10-1]). The reaction mixture was heated by microwave irradiation to 100° C. for 10 min. To the residue was added a sat. solution of NaHCO3 (50 mL) and the solution extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over Na2SO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate affording 0.51 g (52%) of the title compound as a light yellow solid. MS (ISP): 291.1 [M+H]+.

reactant | 2-chloro-5-fluoro-nicotinic acid | 3.42 mmol, 0.60 g, 1.0 equiv | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | 1,2,3,4-tetrahydro-quinoline | 4.10 mmol, 0.52 mL, 0.55 g, 1.2 equiv | N1CCCC2=CC=CC=C12 | C9H11N
reactant | N-ethyldiisopropylamine | 17.09 mmol, 2.91 mL, 2.21 g, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 4.10 mmol, 1.56 g, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-5-fluoro-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone | ClC1=NC=C(C=C1C(=O)N1CCCC2=CC=CC=C12)F | C15H12ClFN2O
